US09079980B2
The following examples show that conjugated diene units can also be incorporated in butyl elastomers by carbocationic copolymerization with isobutylene. Technical grade (80%) alloocimene, (2,6-dimethyl-2,4,6-octatriene) of 95.6% actual purity level which was purchased from Aldrich and dried by column chromatography using aluminum oxide (neutral, Brockmann I activity (Aldrich) and degassed by freeze-pump-thaw technique. Isobutylene (IB), 99% purity and methyl chloride (MeCl), 99.5% purity (Matheson TRIGAS) were condensed from gas phase after drying it by passing through a column filled with BaO/CaCl2. Hexane(s) (Mallinckrodt Chemicals with 98.5% minimum purity) was freshly distilled off CaH2 (Aldrich). Di-tert-butylpyridine (DtBP, 97%, TIC), N,N-Dimethyl acetamide (DMA, 99.8%, anhydrous, Aldrich) and titanium tetrachloride (TiCl4, 99.9%, Aldrich) were used as received. p-Vinylcumyl methyl ether (inimer) was synthesized based on the procedure described in (C. Paulo, J. E. Puskas, Macromolecules 2001, 34, 734-739). It was purified by column chromatography using neutral Brockmann activity I alumina (Aldrich) and n-pentane. 2-Chloro-2,4,4-trimethylpentane (TMPCl) was made by hydrochlorination of 2,4,4-trimethylpent-1-ene (TMP-1, Acros). After completion of the reaction, solution was neutralized by the slow addition of sodium bicarbonate, dried over CaH2 and filtered. It was degassed with freeze-pump-thaw cycles.

reactant | isobutylene | CC(C)=C | C4H8
reactant | alloocimene | C/C=C(\C)/C=C/C=C(C)C | C10H16
reactant | 2,6-dimethyl-2,4,6-octatriene | CC(C)=CC=CC(=CC)C | C10H16
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | p-Vinylcumyl methyl ether | COC(C)(C)C1=CC=C(C=C1)C=C | C12H16O
